US08222248B2
2-(2,6-Dichlorophenyl)-1H-indole-6-carboxylic acid (5-bromothiazolo[5,4-b]pyridin-2-yl)-amide
The title compound was prepared from 2-(2,6-dichlorophenyl)-1H-indole-6-carboxylic acid and 5-bromothiazolo[5,4-b]pyridin-2-ylamine (WO 2007041365) analogous to Example 3-11. 1H NMR (DMSO-d6, 400 MHz): δ 13.08 (s, broad, 1H), 12.01 (s, broad, 1H) 8.33 (s, 1H), 8.11 (d, J=8.5 Hz, 1H), 7.86 (dd, J=8.5, 1.5 Hz, 1H), 7.71 (m, 4H), 7.56 (m, 1H), 6.65 (d, J=1.3 Hz, 1H). MS (m/z) 518.9 (M+1), Retention time=1.58 min (Method 10). High Res. MS: theory 516.9292; measured 516.9277.

reactant | 2-(2,6-dichlorophenyl)-1H-indole-6-carboxylic acid | ClC1=C(C(=CC=C1)Cl)C=1NC2=CC(=CC=C2C1)C(=O)O | C15H9Cl2NO2
reactant | 5-bromothiazolo[5,4-b]pyridin-2-ylamine | BrC1=CC=C2C(=N1)SC(=N2)N | C6H4BrN3S
product | 2-(2,6-Dichlorophenyl)-1H-indole-6-carboxylic acid (5-bromothiazolo[5,4-b]pyridin-2-yl)-amide | BrC1=CC=C2C(=N1)SC(=N2)NC(=O)C2=CC=C1C=C(NC1=C2)C2=C(C=CC=C2Cl)Cl | C21H11BrCl2N4OS
